* a hand-written bridge whose two sides differ only in case is not diagnosed
* The false-positive guard for report_bridge_case_miss()
* (src/xspice/evt/evtcheck_nodes.c).  Under 'distinguish' the two sides of a
* bridge are two names, so spelling them as one name in two cases - the event
* node 'DOUT' and the analog net 'dout' - is a natural way to write the
* dac_bridge on A3, and the circuit is correct: v(dout) = 5.0.
* The near-miss report added for doc/codex/issues/0030 fires when an event
* node matches no analog node exactly and one matches when case is ignored,
* which is true of 'DOUT' here.  It must NOT fire, because A3 already joins
* the two nodes: already_joined() sees one XSPICE instance with a port on the
* event node and a port on that analog node, which is exactly the connection
* the auto-bridge would have inserted.  Warning on this deck is what decision
* 2 of doc/claude/decisions/0001-distinguish.md rejects - a warning on the
* legitimate deck trains users to ignore the warning that matters.
* Verified by hand under casemode=distinguish: stderr carries the
* experimental-mode warning and nothing else.  check.sh's filter drops every
* 'Warning' line, so that absence is not asserted here - it is asserted by
* auto-bridge-node-case-report.cir's HAND case, which sources this same
* circuit under a '>&' redirect and reads the capture back
* (doc/codex/issues/0036).  What this deck pins
* is that the hand-written bridge still conducts, which is the 5.0 below, and
* that it differs from tests/xspice/casedist/auto-bridge-node-case-split.cir -
* same case split, no hand-written bridge, 0.0 and a warning - in the deck and
* not in the mode.
V1 in 0 dc 1
R0 in 0 1meg
A1 [in] [Dig] adc1
.model adc1 adc_bridge(in_low=0.4 in_high=0.6)
A2 Dig DOUT dbuf
.model dbuf d_buffer
A3 [DOUT] [dout] dac1
.model dac1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=2.5)
R1 dout 0 1k
.OPTIONS noacct
.control
op
print v(dout)
.endc
.end
